US03994871
2. Trt-Cys(Trt)-Cys(Acm)-OH
5.63 g of Trt-Cys(Trt)-Cys(Acm)-OMe are dissolved in 75 ml of dioxane and 17.5 ml of water and 3.71 ml of 2 N sodium hydroxide solution are cautiously added thereto. After 1 hour at 20°C, the mixture is cooled to 0°C, 3.71 ml of 2 N hydrochloric acid are added and the solution is concentrated under reduced pressure, at room temperature, to approx. 30 ml and is then diluted with 200 ml of chloroform. The solution is washed three times with water and is dried over sodium sulphate. On evaporating off the solvent, the product, which is pure according to thin layer chromatography, is obtained as a white foam.

reactant | Trt-Cys(Trt)-Cys(Acm)-OMe | 5.63 g | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H47N3O4S2
reactant | water | 17.5 ml | O | H2O
reactant | sodium hydroxide | 2 N, 3.71 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N, 3.71 ml | Cl | ClH
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | Trt-Cys(Trt)-Cys(Acm)-OH | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H45N3O4S2
